US07253196B2
2-(cycloheptylamino)-5,5-diethyl-1,3-thiazol-4(5H)-one
Synthesis was performed from N-cycloheptylthiourea and 2-ethylbutyric acid according to Method J and D.

reactant | N-cycloheptylthiourea | C1(CCCCCC1)NC(=S)N | C8H16N2S
reactant | 2-ethylbutyric acid | C(C)C(C(=O)O)CC | C6H12O2
product | 2-(cycloheptylamino)-5,5-diethyl-1,3-thiazol-4(5H)-one | C1(CCCCCC1)NC=1SC(C(N1)=O)(CC)CC | C14H24N2OS
